US06200995B1
42.1 Preparation of 4-(3-chloro-5-pyridyloxy)-3-nitrobenzotrifluoride
Using the method of Example 21.2, 4-fluoro-3-nitrobenzotrifluoride (7.4 g) and 3-chloro-5-hydroxypyridine (4.59 g) were heated with potassium carbonate (5.4 g) in DMF at 80° C. for 1 h, then 60° overnight. Workup gave the title compound (10.9 g) as a yellow solid.

reactant | 4-fluoro-3-nitrobenzotrifluoride | 7.4 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 3-chloro-5-hydroxypyridine | 4.59 g | ClC=1C=NC=C(C1)O | C5H4ClNO
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(3-chloro-5-pyridyloxy)-3-nitrobenzotrifluoride | 10.9 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C12H6ClF3N2O3
